US07659268B2
A solution of N-(6-chloro-4-methylpyridin-2-yl)pivalamide (500 mg, 2.21 mmol) in HCl (40 mL, 6 M) was stirred for 6 hours at 90° C. The mixture was cooled to room temperature and neutralized with NaOH to pH 10. The mixture was extracted with ethyl acetate, evaporated under vacuum, and purified by chromatography on silica gel (5% ethyl acetate in petroleum ether) to afford 6-chloro-4-methylpyridin-2-amine (257 mg, 82%). 1H NMR (CDCl3, 300 MHz) δ 6.52 (s, 1H), 6.26 (s, 1H), 2.23 (s, 3H).

reactant | N-(6-chloro-4-methylpyridin-2-yl)pivalamide | 2.21 mmol, 500 mg | ClC1=CC(=CC(=N1)NC(C(C)(C)C)=O)C | C11H15ClN2O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 6 M, 40 mL | Cl | ClH
product | 6-chloro-4-methylpyridin-2-amine | 257 mg, 82% | ClC1=CC(=CC(=N1)N)C | C6H7ClN2
